US07557213B2
Preparation of 6-[3-(5,6-Dimethyl-pyridine-2-carbonyl)-4-oxo-4H-quinolin-1-ylmethyl]-pyridine-2-carbonitrile
Experimental conditions analogous to those described for Step 3 of Example 1, from 67 mg (0.24 mmol) of 3-(5,6-dimethyl-pyridine-2-carbonyl)-1H-quinolin-4-one, 12 mg (0.29 mmol) of 60% sodium hydride, 57 mg (0.29 mmol) of 6-bromomethyl-pyridine-2-carbonitrile and 0.7 mL of N,N-dimethylformamide. Yield: 34 mg of a white solid: LC-MSD, m/z for C24H18N4O2 [M+H]+=395.1; HPLC retention time: 1.0 min.

reactant | 3-(5,6-dimethyl-pyridine-2-carbonyl)-1H-quinolin-4-one | 0.24 mmol, 67 mg | CC=1C=CC(=NC1C)C(=O)C1=CNC2=CC=CC=C2C1=O | C17H14N2O2
reactant | sodium hydride | 0.29 mmol, 12 mg | [H-].[Na+]
reactant | 6-bromomethyl-pyridine-2-carbonitrile | 0.29 mmol, 57 mg | BrCC1=CC=CC(=N1)C#N | C7H5BrN2
solvent | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | 6-[3-(5,6-Dimethyl-pyridine-2-carbonyl)-4-oxo-4H-quinolin-1-ylmethyl]-pyridine-2-carbonitrile | CC=1C=CC(=NC1C)C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=CC=CC(=N1)C#N | C24H18N4O2
